US07129232B2
To a solution of benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-iodomethyl-3-cephem-4-carboxylate (820 mg) in N,N-dimethylformamide (2.4 ml) was added N-(trimethylsilyl)acetamide (656 mg), and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added tert-butyl (3S)-3-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1-pyrrolidinecarboxylate (680 mg). The whole mixture was stirred at room temperature for 3 hours. To the resulting reaction mixture were added ethyl acetate (80 ml) and water (50 ml). The aqueous layer was separated, and the organic layer was washed successively with 10% aqueous sodium trifluoroacetate solution, 10% aqueous sodium thiosulfate solution and brine, dried over sodium sulfate and filtered. The filtrate was concentrated to about 5 ml in vacuo. The concentrate was poured into diisopropyl ether (120 ml), and the resulting precipitate was collected by filtration and dried in vacuo. To a solution of the resulting solid in methylene chloride (3.0 ml) were added anisole (1.0 ml) and trifluoroacetic acid (2.0 ml), and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into diisopropyl ether (100 ml), and the resulting precipitate was collected by filtration and dried in vacuo to give a crude product (870 mg), which was purified by preparative HPLC utilizing ODS column. The eluate containing a desired product was concentrated to about 30 ml in vacuo. The concentrate was adjusted to about pH 3 with concentrated hydrochloric acid and chromatographed on Diaion® HP-20 (Mitsubishi Chemical Corporation) eluting with 30% aqueous 2-propanol. The eluate was concentrated to about 30 ml in vacuo and lyophilized to give 3-{[3-amino-2-methyl-4-({[(3S)-3-pyrrolidinylamino]carbonyl}amino)-1-pyrazolio]methyl}-7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-cephem-4-carboxylate (68 mg) as an amorphous solid.

reactant | benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | 820 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C33H35IN6O7S2
reactant | N-(trimethylsilyl)acetamide | 656 mg | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | tert-butyl (3S)-3-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1-pyrrolidinecarboxylate | 680 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C33H38N6O3
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2.4 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 3-{[3-amino-2-methyl-4-({[(3S)-3-pyrrolidinylamino]carbonyl}amino)-1-pyrazolio]methyl}-7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-cephem-4-carboxylate | 68 mg | NC=1N([N+](=CC1NC(=O)N[C@@H]1CNCC1)CC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/OC(C)(C)C(=O)O)\C2=NSC(=N2)N)=O)=O)C | C25H32N12O8S2
